US04126689
To a stirred solution of 5 parts of N-(4-chlorophenyl)-N-(4-piperidinyl)benzeneacetamide, 3.8 parts of N,N-diethylethanamine in 200 parts of benzene are added portionwise 5 parts of 3-bromo-1-propene. After the addition is complete, the whole is heated for 21 hours at a temperature between 50°-60° C. The reaction mixture is cooled and filtered. The filtrate is washed successively with water, sodium hydrogen carbonate solution and water, dried over potassium carbonate and evaporated. The oily residue is converted into the hydrochloride salt in 1,1'-oxybisethane and 2-propanone, yielding 4 parts of N-(4-chlorophenyl)-N-[1-(2-propenyl)-4-piperidinyl]benzeneacetamide hydrochloride; mp. 225.5° C.

reactant | N-(4-chlorophenyl)-N-(4-piperidinyl)benzeneacetamide | ClC1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)C1CCNCC1 | C19H21ClN2O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(4-chlorophenyl)-N-[1-(2-propenyl)-4-piperidinyl]benzeneacetamide hydrochloride | Cl.ClC1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)C1CCN(CC1)CC=C | InChI=1S/C22H25ClN2O.ClH/c1-2-14-24-15-12-21(13-16-24)25(20-10-8-19(23)9-11-20)22(26)17-18-6-4-3-5-7-18;/h2-11,21H,1,12-17H2;1H
